US09062068B2
5-(5-chloro-4-hydroxypyrimidin-2-ylamino)-2-cyclopropylbenzonitrile, containing 1.2 equivalents of p-toluenesulfonic acid (1.00 g, 2.03 mmol) was weighed out and added to a flask with a magnetic stir bar. This was suspended in 11 mL POCl3 and the reaction was heated at reflux for 3 hours. This was evaporated, then quenched with cold 10% aqueous Na2CO3. The mixture was extracted 4 times with ethyl acetate and the combined organic layer was dried over sodium sulfate. This was filtered, concentrated onto a plug of silica, and purified by column chromatography. Pure product was concentrated and dried on the high vacuum to give 493 mg of 5-(4,5-dichloropyrimidin-2-ylamino)-2-cyclopropylbenzonitrile (80% yield, accounting for the mass of p-toluenesulfonic acid present in the starting material).

reactant | 5-(5-chloro-4-hydroxypyrimidin-2-ylamino)-2-cyclopropylbenzonitrile | ClC=1C(=NC(=NC1)NC=1C=CC(=C(C#N)C1)C1CC1)O | C14H11ClN4O
reactant | p-toluenesulfonic acid | 2.03 mmol, 1.00 g, 1.2 equivalents | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | POCl3 | 11 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 5-(4,5-dichloropyrimidin-2-ylamino)-2-cyclopropylbenzonitrile | 493 mg, 80% yield | ClC1=NC(=NC=C1Cl)NC=1C=CC(=C(C#N)C1)C1CC1 | C14H10Cl2N4
